US06559143B1
4-{3-[7-(4-Fluorobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]-2-hydroxypropoxy}benzonitrile
A solution of 4-fluorobenzyl bromide (14.17 mg, 0.075 mmol) in DCM (0.5 mL) of was added, together with TEA (20 mg, 0.2 mmol) to a solution of 4-{[2-hydroxy-3-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propyl]oxy}benzonitrile (Preparation K; 15.2 mg, 0.05 mmol) in MeCN (0.5 mL). The mixture was stirred at 50° C. for 4 days before being concentrated in vacuo. The resulting residue was dissolved in CHCl3 and added to a solid-phase extraction plug (CBA, 0.4 g). The plug was washed with CHCl3 (4×0.3 mL), and the product was finally eluted with CHCl3:MeOH:TEA (5×0.3 mL of 8:1:1) to give the title compound.

reactant | 4-fluorobenzyl bromide | 0.075 mmol, 14.17 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 4-{[2-hydroxy-3-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propyl]oxy}benzonitrile | 0.05 mmol, 15.2 mg | OC(COC1=CC=C(C#N)C=C1)CN1CC2CNCC(C1)O2 | C16H21N3O3
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | MeCN | 0.5 mL | CC#N | C2H3N
product | 4-{3-[7-(4-Fluorobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]-2-hydroxypropoxy}benzonitrile | FC1=CC=C(CN2CC3CN(CC(C2)O3)CC(COC3=CC=C(C#N)C=C3)O)C=C1 | C23H26FN3O3
